US07888364B2
3-(triisopropylsilyloxy)pyridine (2.66 mmol) was used in Procedure J with hexamethyldistannane to yield 5-(triisopropylsilyloxy)-2-(trimethylstannyl)pyridine. The crude material (˜0.55 mmol) was used in Procedure K with N-(4-chloro-3-iodophenyl)-2-methyl-6-(trifluoromethyl)nicotinamide (0.17 mmol). Purified by silica gel chromatography (0-40% ethyl acetate/hexane) to yield N-(4-chloro-3-(5-(triisopropylsilyloxy)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a yellow oil. N-(4-chloro-3-(5-(triisopropylsilyloxy)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide (1 mmol) was treated with TBAF (2 mL, 1 M in THF) in THF (1 mL) at 23° C. for thirty minutes, concentrated, redissolved in ethyl acetate, washed with brine, dried (MgSO4), and concentrated. The crude solid was purified by silica gel chromatography (0-10% isopropanol/dichloromethane) to yield N-(4-chloro-3-(5-hydroxypyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a white solid: TLC Rf=0.59 (10% ethyl acetate/hexanes); MS (Q1) 408 (M)+.

reactant | 3-(triisopropylsilyloxy)pyridine | 2.66 mmol | C(C)(C)[Si](OC=1C=NC=CC1)(C(C)C)C(C)C | C14H25NOSi
reactant | hexamethyldistannane | C[Sn]([Sn](C)(C)C)(C)C
product | 5-(triisopropylsilyloxy)-2-(trimethylstannyl)pyridine | C(C)(C)[Si](OC=1C=CC(=NC1)[Sn](C)(C)C)(C(C)C)C(C)C | InChI=1S/C14H24NOSi.3CH3.Sn/c1-11(2)17(12(3)4,13(5)6)16-14-8-7-9-15-10-14;;;;/h7-8,10-13H,1-6H3;3*1H3;
